US06107329
(S)-2-Amino-3-(4-chloro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride
(S)-[1-(4-Chloro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl)-carbamic acid tert-butyl ester (475 mg, 1.2 mmol) was dissolved in 4M HCl-dioxane (5 mL) at 0° C. The mixture was stirred for 1.5 hour at 25° C., concentrated and the residue triturated with ether. Yield, 422 mg, 105%; TSPMS 283 (MH+, 100%).

reactant | (S)-[1-(4-Chloro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl)-carbamic acid tert-butyl ester | 1.2 mmol, 475 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)Cl)=O | C19H27ClN2O4
solvent | HCl dioxane | 4M, 5 mL | Cl.O1CCOCC1
product | (S)-2-Amino-3-(4-chloro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)Cl | InChI=1S/C14H19ClN2O2.ClH/c15-11-3-1-10(2-4-11)9-13(16)14(19)17-7-5-12(18)6-8-17;/h1-4,12-13,18H,5-9,16H2;1H/t13-;/m0./s1
